US04219657
A solution of 7.9 g. of crude 3-chlorocarbonyldibenzothiophene in 700 ml. of ether was added with stirring to a solution of 2.7 g. of diazomethane in 180 ml. of ether in an ice bath. The solution was stirred for 7 hours and then the solvent was removed, on a steam bath, to yield the crude 3-diazomethylcarbonyldibenzothiophene (7.5 g.) which was used directly in the next step.

reactant | 3-chlorocarbonyldibenzothiophene | ClC(=O)C=1C=CC2=C(SC3=C2C=CC=C3)C1 | C13H7ClOS
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | 3-diazomethylcarbonyldibenzothiophene | 7.5 g | [N+](=[N-])=CC(=O)C=1C=CC2=C(SC3=C2C=CC=C3)C1 | C14H8N2OS
